US06727264B1
To a 50-mL RB-flask, charged with bis(pinacolato)diboron (422 mg, 1.66 mmol), KOAc (444 mg, 4.53 mmol) and PdCl2dppf (37.0 mg, 3.00 mol %), dppf (25.0 mg, 3.00 mol %), was added a solution of 1-[(2,2-dimethylpropanoyl)oxy]-1,2,3,6-tetrahydro-4-pyridinyl trifluoromethanesulfonate (500 mg, 1.51 mmol) in 1,4-dioxane (10.0 mL) at room temperature under argon. The mixture was heated at 80° C. overnight. After cooled to room temperature, the mixture was filtered through celite and the celite was washed with EtOAc (3×20 mL). The filtrates were concentrated in vacuo. The resulting residue was dissolved in EtOAc and washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (1:9 EtOAc:hexane) to give 1-[(2,2-dimethylpropanoyl)oxy]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (355 mg, 76.0%).

reactant | bis(pinacolato)diboron | 1.66 mmol, 422 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 4.53 mmol, 444 mg | CC(=O)[O-].[K+]
reactant | 1-[(2,2-dimethylpropanoyl)oxy]-1,2,3,6-tetrahydro-4-pyridinyl trifluoromethanesulfonate | 1.51 mmol, 500 mg | FC(S(=O)(=O)OC=1CCN(CC1)OC(C(C)(C)C)=O)(F)F | C11H16F3NO5S
solvent | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 25.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-[(2,2-dimethylpropanoyl)oxy]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 355 mg, 76.0% | CC(C(=O)ON1CCC(=CC1)B1OC(C(O1)(C)C)(C)C)(C)C | C16H28BNO4
